US09382265B2
(b) (3R,3aS)—N-(5-chlorothien-2-yl)-1-oxo-7-(3-oxomorpholin-4-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-carboxamide
Using compound (3R,3 aS)-1-oxo-7-(3-oxomorpholin-4-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-carboxylic acid (90 mg, 0.269 mmol), 5-chlorothiophene-2-amine hydrochloride (55 mg, 0.323 mmol), HATU (154 mg, 0.404 mmol), and TEA (95.3 mg, 0.943 mmol) as starting materials, preparation following the method as described in Example 11 (g) afforded white solid 73 mg, yield: 60.34%.

reactant | (3R,3 aS)-1-oxo-7-(3-oxomorpholin-4-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-carboxylic acid | 0.269 mmol, 90 mg | O=C1O[C@H]([C@H]2N1C1=C(OC2)C=C(C=C1)N1C(COCC1)=O)C(=O)O | C15H14N2O7
reactant | 5-chlorothiophene-2-amine hydrochloride | 0.323 mmol, 55 mg | Cl.ClC1=CC=C(S1)N
reactant | HATU | 0.404 mmol, 154 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | (3R,3aS)—N-(5-chlorothien-2-yl)-1-oxo-7-(3-oxomorpholin-4-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-carboxamide | 73 mg, yield: 60.34% | ClC1=CC=C(S1)NC(=O)[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(COCC3)=O)=O | C19H16ClN3O6S
